US07105544B2
N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2,2-DIPHENYLPROPANAMIDE
Example 103 was prepared from 2,2-diphenylpropanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.37–7.23 (m, 14H), 6.93 (d, 1H, J=7.6 Hz), 6.20 (br s, 1H), 3.37 (dd, 2H, J=6.4, 12.4 Hz), 2.89 (d, 2H, 7.2 Hz), 2.45 (m, 1H), 2.30 (m, 2H), 2.18 (s, 3H), 2.01 (s, 3H), 1.94 (t, 2H, J=11.6 Hz), 1.76–1.53 (m, 6H); ESMS m/e: 484.2 (M+H)+.

reactant | 2,2-diphenylpropanoic acid | C1(=CC=CC=C1)C(C(=O)O)(C)C1=CC=CC=C1 | C15H14O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C)=O | C16H25N3O
product | N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2,2-DIPHENYLPROPANAMIDE | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(C(C)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H37N3O2
